US09085555B2
C. (S)-1-(3-Bromo-phenyl)-2-fluoro-ethylamine hydrochloride
To a mixture of 2-methyl-propane-2-sulfonic acid [2-benzenesulfonyl-1-(3-bromo-phenyl)-2-fluoro-eth-(Z)-ylidene]-amide (1.74 g, 3.76 mmol) and sodium phosphate dibasic (4.27 g, 30.1 mmol) in methanol (50 mL), cooled to −20° C., was added Na/Hg amalgam (6.92 g, 30.1 mmol). The reaction mixture was stirred for 1 h at −20° C., followed by filtration. To the filtrate was added a 4N HCl solution in dioxane (9.41 mL, 37.6 mmol), followed by stirring for 30 min at 25° C. After evaporation of volatiles, Et2O was added to the residue and the resulting precipitate was filtered off. The title compound thus obtained was used in the next reaction step without further purification. MS (LC/MS): 218/220 [M+H]+; tR (HPLC conditions f): 1.05 min.

reactant | 2-methyl-propane-2-sulfonic acid [2-benzenesulfonyl-1-(3-bromo-phenyl)-2-fluoro-eth-(Z)-ylidene]-amide | 3.76 mmol, 1.74 g | C1(=CC=CC=C1)S(=O)(=O)C(\C(\C1=CC(=CC=C1)Br)=N/S(=O)(=O)C(C)(C)C)F | C18H19BrFNO4S2
reactant | sodium phosphate dibasic | 30.1 mmol, 4.27 g | OP(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 37.6 mmol, 9.41 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 50 mL | CO | CH4O
product | (S)-1-(3-Bromo-phenyl)-2-fluoro-ethylamine hydrochloride | Cl.BrC=1C=C(C=CC1)[C@@H](CF)N | InChI=1S/C8H9BrFN.ClH/c9-7-3-1-2-6(4-7)8(11)5-10;/h1-4,8H,5,11H2;1H/t8-;/m1./s1
